US03963777
3.3 g of 5-chloro-2-[(2,3-dihydroxypropyl)-amino]-2'-fluorobenzophenone are dissolved in methylene chloride and treated under anhydrous conditions with 2.6 g of glycyl chloride hydrochloride. The mixture is stirred for 2 hours at room temperature, then the methylene chloride is extensively distilled off, whereupon the residue is stirred for 30 minutes with 3 N hydrochloric acid. The acidic aqueous solution is extracted with ether, subsequently made alkaline with 3 N sodium hydroxide or concentrated ammonia and extracted with ethyl acetate. The ethyl acetate phase is washed with water, dried over magnesium sulfate, filtered and concentrated. The residue is chromatographed on silica gel with ethyl acetate, there being isolated 7-chloro-1-(2,3-dihydroxypropyl)-5-(2-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one of melting point 117°-118°C. During the aforementioned reaction, there is formed as an intermediate 2-amino-4'-chloro-N-(2,3-dihydroxypropyl)-2'-(2-fluorobenzoyl)-acetanilide, which is not isolated.

reactant | 5-chloro-2-[(2,3-dihydroxypropyl)-amino]-2'-fluorobenzophenone | 3.3 g | ClC=1C=CC(=C(C(=O)C2=C(C=CC=C2)F)C1)NCC(CO)O | C16H15ClFNO3
reactant | glycyl chloride hydrochloride | 2.6 g | Cl.NCC(=O)Cl
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-chloro-1-(2,3-dihydroxypropyl)-5-(2-fluorophenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one | ClC=1C=CC2=C(C(=NCC(N2CC(CO)O)=O)C2=C(C=CC=C2)F)C1 | C18H16ClFN2O3
